US04703116
2-Ethenyl-5,5-dimethyl-1,3-dioxane was prepared by adding 15.4 g. of acrolein (9.275 mole) and 26.0 g. (0.25 mole) 2,2-dimethyl-1,3-propanediol to a 100 ml. round bottom flask equipped with magnetic stir bar and thermocouple. Hydrochloric acid (0.1 ml. 37%) was added to the reaction and the temperature dropped to about 5° C. After all of the diol was dissolved, the reaction exothermed to approximately 45° C. After the reaction was cooled to 30° C., the mixture was placed in a separatory funnel. The lower aqueous layer was removed and the organic layer simultaneously neutralized and dried with excess sodium carbonate (anhydrous). The material was filtered and distilled (Bp 40° C. at 10 mm/Hg) to give a water clear liquid.

reactant | acrolein | 9.275 mole | C(=O)C=C | C3H4O
reactant | 2,2-dimethyl-1,3-propanediol | 0.25 mole | CC(CO)(CO)C | C5H12O2
reactant | Hydrochloric acid | 0.1 ml | Cl | ClH
product | 2-Ethenyl-5,5-dimethyl-1,3-dioxane | C(=C)C1OCC(CO1)(C)C | C8H14O2
